US07834051B2
Ethyl 1-[2-(dibenzylamino)propanoyl]cyclopropanecarboxylate
A solution of ethyl(4S)-4-(dibenzylamino)-3-oxopentanoate (500 mg) synthesized according to the method described in Journal of Organic Chemistry, vol. 62, pp. 2292-2297 (1997), 1,2-dibromoethane (0.19 mL) and potassium carbonate (405 mg) in acetone (15 mL), was stirred under reflux overnight. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=1/0→2/1) to give the title compound as a colorless oil (yield: 231.4 mg, 43.0%).

reactant | ethyl(4S)-4-(dibenzylamino)-3-oxopentanoate | 500 mg | C(C1=CC=CC=C1)N([C@H](C(CC(=O)OCC)=O)C)CC1=CC=CC=C1 | C21H25NO3
reactant | 1,2-dibromoethane | 0.19 mL | BrCCBr | C2H4Br2
reactant | potassium carbonate | 405 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | Ethyl 1-[2-(dibenzylamino)propanoyl]cyclopropanecarboxylate | yield: 231.4 mg, 43.0% | C(C1=CC=CC=C1)N(C(C(=O)C1(CC1)C(=O)OCC)C)CC1=CC=CC=C1 | C23H27NO3
